US07053089B2
[1-(2-Phenyl-ethanesulfonyl)-piperidin-4-ylmethyl]-pyrazin-2-yl-amine
EXAMPLE 90 was prepared from (3-chloro-pyrazin-2-yl)-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-ylmethyl]-amine by hydrogenation in ethanol-triethylamine over 5% palladium on carbon, 1 atm of hydrogen: MS (m+1)=361.

reactant | (3-chloro-pyrazin-2-yl)-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-ylmethyl]-amine | ClC=1C(=NC=CN1)NCC1CCN(CC1)S(=O)(=O)CCC1=CC=CC=C1 | C18H23ClN4O2S
reactant | hydrogen | [H][H] | H2
solvent | ethanol triethylamine | C(C)O.C(C)N(CC)CC
catalyst | palladium on carbon | [Pd] | Pd
product | [1-(2-Phenyl-ethanesulfonyl)-piperidin-4-ylmethyl]-pyrazin-2-yl-amine | C1(=CC=CC=C1)CCS(=O)(=O)N1CCC(CC1)CNC1=NC=CN=C1 | C18H24N4O2S
